US07022725B2
A mixture of N-[4-(diethylphosphonomethyl)phenyl]-3-[5-(4-methylthiophenyl)-4-isoxazolyl]propionamide (98 mg), m-chloroperbenzoic acid (60 mg) and tetrahydrofuran (5 ml) was stirred at room temperature for 4 hr. 10% aqueous sodium sulfite solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with 10% aqueous potassium carbonate solution, and then with saturated brine, dried (MgSO4) and concentrated. The residue was purified by preparative HPLC to give N-[4-(diethylphosphonomethyl)phenyl]-3-[5-(4-methylsulfinylphenyl)-4-isoxazolyl]propionamide.

reactant | N-[4-(diethylphosphonomethyl)phenyl]-3-[5-(4-methylthiophenyl)-4-isoxazolyl]propionamide | 98 mg | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)NC(CCC=1C=NOC1C1=CC=C(C=C1)SC)=O | C24H29N2O5PS
reactant | m-chloroperbenzoic acid | 60 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[4-(diethylphosphonomethyl)phenyl]-3-[5-(4-methylsulfinylphenyl)-4-isoxazolyl]propionamide | yield: 16% | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)NC(CCC=1C=NOC1C1=CC=C(C=C1)S(=O)C)=O | C24H29N2O6PS
